US07429581B2
(iii) 2-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxy]-2H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 1 g 5-[2-(2-Methoxy-ethoxy)-ethoxy]-2H-pyrazole-3-carboxylic acid ethyl ester in 10 ml of DMF and 154 mg of sodium hydride (60% in mineral oil) were added at RT. After stirring for 5 min at room temperature, 966 mg of 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added. The reaction was stirred at room temperature for 2 h. Then 50 ml of water were added and the mixture was extracted with DCM (3×100 ml). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The product was used in the next reaction step without further purification. Yield: 1.2 g.

reactant | 5-[2-(2-Methoxy-ethoxy)-ethoxy]-2H-pyrazole-3-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1NN=C(C1)OCCOCCOC | C11H18N2O5
reactant | sodium hydride | 154 mg | [H-].[Na+]
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 966 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | water | 50 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxy]-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)OCCOCCOC)CC(NC1=NC=C(C=C1)Cl)=O | C18H23ClN4O6
